US06521643B1
To a solution of 1-fluoro-4-(4-methoxypyridin-2-yl)-2-nitrobenzene (200 mg) and triethylamine (0.135 ml) in tetrahydrofuran (2 ml) was added aniline (2 ml). The mixture was stirred under reflux for 6 hours and evaporated under reduced pressure. The residue was dissolved in ethyl acetate and washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The precipitate was triturated with diisopropyl ether, collected by filtration and dried to give 4-(4-methoxypyridin-2-yl)-2-nitro-N-phenylaniline (235 mg).

reactant | 1-fluoro-4-(4-methoxypyridin-2-yl)-2-nitrobenzene | 200 mg | FC1=C(C=C(C=C1)C1=NC=CC(=C1)OC)[N+](=O)[O-] | C12H9FN2O3
reactant | triethylamine | 0.135 ml | C(C)N(CC)CC | C6H15N
reactant | aniline | 2 ml | NC1=CC=CC=C1 | C6H7N
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-(4-methoxypyridin-2-yl)-2-nitro-N-phenylaniline | 235 mg | COC1=CC(=NC=C1)C1=CC(=C(NC2=CC=CC=C2)C=C1)[N+](=O)[O-] | C18H15N3O3
